US08609644B2
7(E)-Methoxyiminoandrostane-3,17-dione (II-br)
The title compound II-br was prepared in 55% yield from 3,3:17,17-bis(ethylendioxy)-7(E)-methoxyiminoandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The crude product was purified by flash chromatography (SiO2, n-hexane/EtOAc 6/4). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS: δ 3.72 (s, 3H), 2.89 (m, 1H), 2.63-0.93 (m, 19H), 1.12 (s, 3H), 0.82 (s, 3H).

reactant | 17,17-bis(ethylendioxy)-7(E)-methoxyiminoandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1/C(/CC3CCCC[C@]3(C)[C@H]1CC4)=N/OC | C24H37NO5
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 7(E)-Methoxyiminoandrostane-3,17-dione | 55% yield | CO\N=C/1\[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC2C1)=O)C)=O | C20H29NO3
